US06423869B1
(S)-3-[(2S,3R,4R,5S)-2,3,4,6-tetrahydroxy-5-(L-leucyl)aminohexanoyl]amino-3-phenylpropionamide
To a solution of (S)-3-[(2S,3R,4R,5S)-5-(N-benzyloxycarbonyl-L-leucyl)amino-2,3,4,6-tetrahydroxyhexanoyl]amino-3-phenylpropionamide (200 mg) in methanol (10 ml) was added 10% palladium on activated carbon (50 mg) and the mixture was stirred under hydrogen atmosphere at room temperature for 20 hours. After removal of the catalyst by filtration, the filtrate was concentrated under reduced pressure. Recrystallization from methanol-diethylether provided the title compound (140 mg).

reactant | (S)-3-[(2S,3R,4R,5S)-5-(N-benzyloxycarbonyl-L-leucyl)amino-2,3,4,6-tetrahydroxyhexanoyl]amino-3-phenylpropionamide | 200 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(C)C)C(=O)N[C@H]([C@H]([C@H]([C@@H](C(=O)N[C@@H](CC(=O)N)C1=CC=CC=C1)O)O)O)CO | C29H40N4O9
solvent | methanol | 10 ml | CO | CH4O
catalyst | palladium on activated carbon | 50 mg | [Pd] | Pd
product | (S)-3-[(2S,3R,4R,5S)-2,3,4,6-tetrahydroxy-5-(L-leucyl)aminohexanoyl]amino-3-phenylpropionamide | 140 mg | O[C@H](C(=O)N[C@@H](CC(=O)N)C1=CC=CC=C1)[C@@H]([C@@H]([C@H](CO)NC([C@@H](N)CC(C)C)=O)O)O | C21H34N4O7
